US05047534
The methyl 2-benzyl-3-(t-butyldimethylsilyloxy)propionate (3.3 g) was dissolved in 100 ml of methanol, cooled to 0° C. and treated with 50 ml of 30% potassium hydroxide with vigorous stirring. The reaction was then allowed to warm to room temperature over five hours. The reaction was diluted with 200 ml of water, rinsed with diethyl ether, and the aqueous solution was cooled to 0° C. Dichloromethane (100 ml) was added, followed by the slow addition of 260 ml of 1M hydrochloric acid, with stirring. The layers were separated and the aqueous layer was extracted with dichloromethane (3×200 ml). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was purified by radial chromatography (2% to 4% methyl alcohol in chloroform. 4 mm plate) to yield 2.14 9 of the 2-benzyl-3-(t-butyldimethylsilyloxy)propionic acid.

reactant | methyl 2-benzyl-3-(t-butyldimethylsilyloxy)propionate | 3.3 g | C(C1=CC=CC=C1)C(C(=O)OC)CO[Si](C)(C)C(C)(C)C | C17H28O3Si
reactant | potassium hydroxide | 50 ml | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | 2-benzyl-3-(t-butyldimethylsilyloxy)propionic acid | C(C1=CC=CC=C1)C(C(=O)O)CO[Si](C)(C)C(C)(C)C | C16H26O3Si
